### ISSUE TITLE
prove ProbMethodCombinatorics.exists_nearly_equiangular

### ISSUE THREAD

**Issue by yidiq7** [yidiq7/ProbMethodCombinatorics#24]
---
choir-task-version: 1
type: prove
target_file: ProbMethodCombinatorics/Chernoff.lean
target_decl: ProbMethodCombinatorics.exists_nearly_equiangular
project_ref:
  repo: yidiq7/ProbMethodCombinatorics
  commit: b66e387f4327f6d1732d4296ba491e742488cd15
  toolchain: leanprover/lean4:v4.33.0
deps: []
blueprint_ref: nearly_equiangular
---

**Exponentially many nearly equiangular vectors** — Zhao, Theorem 5.2.1
(`sources/mit18_226_f22_lec_full.pdf`, printed p. 74 = PDF p. 80). For every `α ∈ (0,1)` and
`ε > 0` there is `c > 0` such that every `ℝⁿ` contains at least `2^{cn}` unit vectors whose
pairwise inner products all lie in `[α - ε, α + ε]`.

The contrast is the point: for *exactly* equal inner products, a Gram matrix rank argument
(given in the same section) caps the count at `n + 1`. Allowing an `ε`-window buys
exponentially many.

**Route.** Set `p = (1 + √α)/2` and take `m = ⌈2^{cn}⌉` random vectors in `{-1,1}ⁿ`, each
coordinate `+1` with probability `p` independently. For `i ≠ j`, `vᵢ · vⱼ` is a sum of `n`
independent `±1` variables with mean `(2p-1)² = α`, so Chernoff (task #22, after the affine
rescaling that centres each term and puts it in `[-1,1]`) gives
`ℙ(|vᵢ · vⱼ - nα| ≥ nε) ≤ 2 e^{-Ω(nε²)}`. A union bound over the `m²` pairs is `< 1` for
`m` as large as `2^{cn}` with `c = c(ε)`. Normalize by `√n`.

**What makes this hard in Lean, beyond the analysis.** The vectors are built in `{-1,1}ⁿ` and
then normalized into `EuclideanSpace ℝ (Fin n)`; you must produce a `Finset` of *distinct*
unit vectors, so the random choice has to be shown injective — or, more simply, the argument
restated as choosing an `m`-element `Finset` of sign vectors directly rather than a random
`m`-tuple. Think about this before starting; it is the difference between a clean proof and
a long one.

**Project facts.**
- `inner ℝ v w` for `v w : EuclideanSpace ℝ (Fin n)`; `EuclideanSpace.inner_eq_star_dotProduct`
  and `EuclideanSpace.norm_eq` relate it to coordinate sums.
- `c` must not depend on `n`, but may depend on `α` and `ε`.
- `n = 0` is a real case: `EuclideanSpace ℝ (Fin 0)` is trivial, has no unit vector, and
  `2 ^ (c * 0) = 1`, so the statement demands a nonempty `S` of unit vectors — **check this
  case first**, it may force `c` to be chosen so the bound is met vacuously, or reveal that
  the statement needs adjusting. If it does, say so on this issue rather than working around
  it; that is a useful finding.
- **Hard; route known, formalization route not.** A reduction is an acceptable return.

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: claim
protocol: 8
session: 2a68f82843bd6ee9
```

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: heartbeat
protocol: 8
session: 2a68f82843bd6ee9
```

_Lease refreshed 2026-09-13T10:12:55+00:00; this comment is edited in place._

**Comment by yidiq7** [comment]
## choir-defect — `exists_nearly_equiangular` is false as stated (at `n = 0`, and also at `n = 1`)

This is the **"this statement is wrong"** case. `TASK.md` asked me to check `n = 0` first and to report
rather than work around — so I did that before writing any of the analysis. Nothing is committed; the
workspace is byte-identical to base. I am releasing the claim.

Both refutations below are machine-checked at the pinned commit, and both take the statement **as a
hypothesis** rather than routing through the declaration's own `sorry`, so they refute the proposition
itself:

```lean
abbrev Claim : Prop := ∀ {α ε : ℝ}, α ∈ Set.Ioo (0 : ℝ) 1 → 0 < ε →
    ∃ c : ℝ, 0 < c ∧ ∀ n : ℕ, ∃ S : Finset (EuclideanSpace ℝ (Fin n)),
      (2 : ℝ) ^ (c * n) ≤ S.card ∧ (∀ v ∈ S, ‖v‖ = 1) ∧
        ∀ v ∈ S, ∀ w ∈ S, v ≠ w → inner ℝ v w ∈ Set.Icc (α - ε) (α + ε)
```

### 1. `n = 0`

`EuclideanSpace ℝ (Fin 0)` is trivial, so its only vector has norm `0` and there is no unit vector at
all. But `2 ^ (c * 0) = 1`, so the bound demands `1 ≤ S.card`. Instantiating at `α = 1/2`, `ε = 1`:

```lean
theorem refute_at_zero (h : Claim) : False := by
  obtain ⟨c, hc, hn⟩ := h (α := 1/2) (ε := 1) (by norm_num) (by norm_num)
  obtain ⟨S, hcard, hunit, -⟩ := hn 0
  have h1 : (1 : ℝ) ≤ S.card := by
    have e : (2 : ℝ) ^ (c * (0 : ℕ)) = 1 := by norm_num
    linarith [e ▸ hcard]
  obtain ⟨v, hv⟩ : S.Nonempty := by
    rw [← Finset.card_pos]; exact_mod_cast lt_of_lt_of_le Nat.zero_lt_one (by exact_mod_cast h1)
  have h0 : ‖v‖ = 0 := by simp [EuclideanSpace.norm_eq]
  rw [hunit v hv] at h0
  norm_num at h0
```

Note this is independent of `c`: `c * 0 = 0` however `c` is chosen, so no choice of `c` escapes it.

### 2. `n = 1` — so `(hn : 0 < n)` would **not** repair it

This is the part worth your attention, because it differs from the Chernoff defect (#21), where adding
`0 < n` was sufficient. In `EuclideanSpace ℝ (Fin 1)` a unit vector is `±1`, so two *distinct* unit
vectors have inner product exactly `-1`. Unless the window `[α - ε, α + ε]` reaches `-1`, at most one
vector fits — while `c > 0` forces `2 ^ (c * 1) > 1`, hence `S.card ≥ 2`.

```lean
theorem inner_fin_one (v w : EuclideanSpace ℝ (Fin 1)) : inner ℝ v w = v 0 * w 0 := by
  simp [PiLp.inner_apply, mul_comm]

theorem card_le_one_fin_one {α ε : ℝ} (hlo : -1 < α - ε)
    (S : Finset (EuclideanSpace ℝ (Fin 1)))
    (hunit : ∀ v ∈ S, ‖v‖ = 1)
    (hip : ∀ v ∈ S, ∀ w ∈ S, v ≠ w → inner ℝ v w ∈ Set.Icc (α - ε) (α + ε)) :
    S.card ≤ 1 := by
  by_contra hcon
  obtain ⟨v, hv, w, hw', hvw⟩ := Finset.one_lt_card.mp (not_le.mp hcon)
  have hv1 : |v 0| = 1 := by
    have := hunit v hv; simpa [EuclideanSpace.norm_eq, Real.sqrt_sq_eq_abs] using this
  have hw1 : |w 0| = 1 := by
    have := hunit w hw'; simpa [EuclideanSpace.norm_eq, Real.sqrt_sq_eq_abs] using this
  have hvne : v 0 ≠ w 0 := fun hEq => hvw (by ext i; fin_cases i; exact hEq)
  have hprod : v 0 * w 0 = -1 := by
    rcases abs_eq (by norm_num : (0:ℝ) ≤ 1) |>.mp hv1 with h1 | h1 <;>
      rcases abs_eq (by norm_num : (0:ℝ) ≤ 1) |>.mp hw1 with h2 | h2 <;>
      rw [h1, h2] at hvne ⊢ <;> first | (exact absurd rfl hvne) | norm_num
  have := (hip v hv w hw' hvw).1
  rw [inner_fin_one, hprod] at this
  linarith

theorem refute_at_one (h : Claim) : False := by
  obtain ⟨c, hc, hn⟩ := h (α := 1/2) (ε := 1) (by norm_num) (by norm_num)
  obtain ⟨S, hcard, hunit, hip⟩ := hn 1
  have hle : S.card ≤ 1 := card_le_one_fin_one (by norm_num) S hunit hip
  have h2 : (1 : ℝ) < (2 : ℝ) ^ (c * (1 : ℕ)) := by
    have : (0 : ℝ) < c * (1 : ℕ) := by push_cast; linarith
    simpa using Real.one_lt_rpow_iff_of_pos (by norm_num) |>.mpr (Or.inl ⟨by norm_num, this⟩)
  have : (1 : ℝ) < S.card := lt_of_lt_of_le h2 hcard
  have : (1 : ℕ) < S.card := by exact_mod_cast this
  omega
```

The same obstruction persists for every small `n`: for fixed `α, ε` the window admits nothing near
`-1`, and `2 ^ (cn)` beats the number of vectors that actually fit until `n` is large. That is not a
defect in the mathematics — Zhao's Theorem 5.2.1 is an asymptotic statement — it is the quantifier
order in the formalisation.

### Recommended repair

Move to the asymptotic form, putting `n₀` inside the `∃ c`:

```lean
theorem exists_nearly_equiangular {α ε : ℝ} (hα : α ∈ Set.Ioo (0 : ℝ) 1) (hε : 0 < ε) :
    ∃ c : ℝ, 0 < c ∧ ∃ n₀ : ℕ, ∀ n ≥ n₀, ∃ S : Finset (EuclideanSpace ℝ (Fin n)),
      (2 : ℝ) ^ (c * n) ≤ S.card ∧ (∀ v ∈ S, ‖v‖ = 1) ∧
        ∀ v ∈ S, ∀ w ∈ S, v ≠ w → inner ℝ v w ∈ Set.Icc (α - ε) (α + ε)
```

This is what the Chernoff route actually proves — the union bound over the `m²` pairs needs `n` large
before it drops below `1` — so the repaired statement should also be *easier* to prove than the
current one, not merely true.

I have not attempted the analysis itself, since the statement has to be settled first. Happy to take
the task again once it is re-published.

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: release
protocol: 8
```

**Comment by yidiq7** [comment]
**The statement was false, which is very likely why this was released.** Fixed; re-pinned to `2f710ea1`.

As published it claimed the bound for *every* `n`:

- at `n = 0`, `EuclideanSpace ℝ (Fin 0)` has no unit vector at all, yet `2 ^ (c * 0) = 1` forces `S` to be non-empty — I machine-checked this counterexample before touching anything;
- at `n = 1` the only unit vectors are `±1`, whose inner product is `-1`, so for small `ε` at most one of them qualifies while `2 ^ c > 1` demands two.

The theorem is genuinely asymptotic; the book's "for every `n`" is loose. The statement now reads

```
∃ (c : ℝ) (n₀ : ℕ), 0 < c ∧ ∀ n ≥ n₀, ∃ S : Finset (EuclideanSpace ℝ (Fin n)), …
```

so you may choose `n₀` as large as the argument needs, which also removes the awkward small-`n` bookkeeping the old shape forced on you. The route is unchanged: random `±1` vectors with `+1` biased to `p = (1 + √α)/2`, so `𝔼[vᵢ · vⱼ] = (2p-1)² = α`, then the two-sided Chernoff bound — **now unconditionally proved** (#61, #40) — and a union bound over the `m²` pairs.

**If a task resists and the obstruction is at `n = 0` or `n = 1`, please say so on the issue rather than releasing silently.** `metrics struggle` only counts failed PRs, so an abandoned claim is invisible to me and a bad statement can sit for hours. This is the third statement of mine to be wrong this way and the defect is mine, not yours.

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: claim
protocol: 8
session: 34a7c14e2d7ff973
```

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: heartbeat
protocol: 8
session: 34a7c14e2d7ff973
```

_Lease refreshed 2026-09-13T10:53:17+00:00; this comment is edited in place._

**Comment by yidiq7** [comment]
Submitted in https://github.com/yidiq7/ProbMethodCombinatorics/pull/68.
